US04192880
Preparation of 2-(5-methylpyridin-2-yl)benzimidazole
6.2 g. of o-phenylenediamine, 7.1 g. of 5-methylpicolinic acid and 40 g. of polyphosphoric acid were stirred under nitrogen gas current at 160° C. to 180° C. for 4 hours. To the reaction mixture were added 400 ml. of water and then a concentrated aqueous solution of sodium carbonate to neutrality. The resulting crystals were filtered off, dried and recrystallized from acetonitrile or ethyl acetate to obtain 9.4 g. of colorless needles of the product (86% of theory), M.P. 229.0°-229.5° C.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 5-methylpicolinic acid | CC=1C=CC(=NC1)C(=O)O | C7H7NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(5-methylpyridin-2-yl)benzimidazole | CC=1C=CC(=NC1)C=1NC2=C(N1)C=CC=C2 | C13H11N3
